US07696205B2
(26h). Preparation of lithium 2-(5-(trifluoromethoxy)-1H-indol-2-yl)acetate.
A solution of ethyl 2-(5-(trifluoromethoxy)-1H-indol-2-yl)acetate (96 mg, 0.33 mmol) in 2:1 THF/water (6 mL) was treated with lithium hydroxide (10 mg, 0.4 mmol), and the reaction was stirred overnight. The THF was stripped, and the aqueous was freeze-dried to yield 90 mg of an off-white solid as product.

reactant | ethyl 2-(5-(trifluoromethoxy)-1H-indol-2-yl)acetate | 0.33 mmol, 96 mg | FC(OC=1C=C2C=C(NC2=CC1)CC(=O)OCC)(F)F | C13H12F3NO3
reactant | THF water | 6 mL | C1CCOC1.O
reactant | lithium hydroxide | 0.4 mmol, 10 mg | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | lithium 2-(5-(trifluoromethoxy)-1H-indol-2-yl)acetate | 90 mg | FC(OC=1C=C2C=C(NC2=CC1)CC(=O)[O-])(F)F.[Li+] | InChI=1S/C11H8F3NO3.Li/c12-11(13,14)18-8-1-2-9-6(4-8)3-7(15-9)5-10(16)17;/h1-4,15H,5H2,(H,16,17);/q;+1/p-1
